US07632857B2
N-{5-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-pyridin-2-yl}-methanesulfonamide
Procedure LL: To a stirring solution of [4-(6-amino-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (1.0 mmol) in 3:1 dichloromethane/pyridine (0.10M), add methanesulfonyl chloride (1.3 mmol) and stir at room temperature for 48 hours. After this time, wash the reaction with 1N hydrochloric acid while extracting with dichloromethane. Using 2N sodium hydroxide, make the aqueous phase basic and extract with 10% isopropanol/dichloromethane. The product remains in the aqueous layer during the acid/base workup. Concentrate the aqueous layer in vacuo and purify the title compound via radial chromatography eluting with 2M ammonia and dichloromethane. MS (m/e): 429.2 (M+1)

reactant | [4-(6-amino-pyridin-3-yl)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 1.0 mmol | NC1=CC=C(C=N1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H26N4O
reactant | methanesulfonyl chloride | 1.3 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane pyridine | 0.10M | ClCCl.N1=CC=CC=C1
product | N-{5-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-pyridin-2-yl}-methanesulfonamide | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C=1C=CC(=NC1)NS(=O)(=O)C | C22H28N4O3S
